US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-6-hydroxy-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (26)
A mixture of 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (0.1 g, 0.2 mmol), bis(pinacolato)diboron (0.1 g, 0.4 mmol), PdCl2(dppf) (0.04 g, 0.05 mmol), potassium acetate (0.05 g, 0.5 mmol) was charged in a sealed tube with anhydrous THF (7 mL). The solution was warmed at 80° C. for 16 hours. The reaction mixture was cooled to room temperature and quenched with water (15 mL) and diluted with CH2Cl2 (20 mL). The organic layer was separated and washed with brine (10 mL) and dried over sodium sulfate. The solvent was removed in vacuo. The residue was dissolved in THF (10 mL), and a solution of 30% H2O2 in water (0.15 mL, 0.5 mmol) and NaOH (0.01 g, 0.3 mmol) were added. The mixture was stirred at 10° C. for 3 hours and then quenched with water (10 mL) and diluted with CH2Cl2 (20 mL). The organic layer was washed with brine (10 mL) and dried over sodium sulfate. The solvent was removed in vacuo. The residue was purified by reversed-phase HPLC, eluting with a gradient of 5-100% CH3CN in water. The desired fractions were combined and diluted with saturated aqueous NaHCO3 (20 mL) and ethyl acetate (20 mL). The organic layer was separated, dried over sodium sulfate and concentrated to afford the title compound.

reactant | 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | 0.2 mmol, 0.1 g | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)Br)C2=CC=C(C=C2)F)C=C1 | C22H18BrFN4O3S
reactant | bis(pinacolato)diboron | 0.4 mmol, 0.1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.5 mmol, 0.05 g | C(C)(=O)[O-].[K+]
reactant | H2O2 | OO | H2O2
reactant | water | 0.5 mmol, 0.15 mL | O | H2O
reactant | NaOH | 0.3 mmol, 0.01 g | [OH-].[Na+]
catalyst | PdCl2(dppf) | 0.05 mmol, 0.04 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 1-(4-Fluoro-phenyl)-6-hydroxy-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)O)C2=CC=C(C=C2)F)C=C1 | C22H19FN4O4S
